US07989480B2
(S)-4-[4-(4-Methoxyphenoxy)-benzyl]-2,2-dimethyl-oxazolidine-3carboxylic acid tert-butyl ester
To a solution of (S)-4-(4-Hydroxy-benzyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (150 mg, 0.5 mmol, 1 eq.)), 4-iodoanisole (180 mg, 0.75 mmol, 1.5 eq.) in dioxane (4 ml) was added CuI(I) (20 mg, 0.05 mmol, 0.1 eq.), N,N-dimethylglycine (30 mg, 0.15 mmol, 0.3 eq.) and cesium carbonate (500 mg, 1.5 mmol, 3 eq.). The resulting mixture was stirred under Ar at reflux overnight. After cooling to room temperature, the volatile material was removed under reduced pressure to give a residue, which was partitioned between water (10 ml) and ethyl acetate (10 ml). The ethyl acetate layer was separated and dried over anhydrous MgSO4. Evaporation of solvent under reduced pressure gave a residue, which was passed through a plug of silica gel using dichloromethane (50 ml) as eluent to give 106 mg of desired product (51% yield).

reactant | (S)-4-(4-Hydroxy-benzyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 0.5 mmol, 150 mg, 1 eq. | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC1=CC=C(C=C1)O)(C)C | C17H25NO4
reactant | 4-iodoanisole | 0.75 mmol, 180 mg, 1.5 eq. | IC1=CC=C(C=C1)OC | C7H7IO
reactant | N,N-dimethylglycine | 0.15 mmol, 30 mg, 0.3 eq. | CN(CC(=O)O)C | C4H9NO2
reactant | cesium carbonate | 1.5 mmol, 500 mg, 3 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (S)-4-[4-(4-Methoxyphenoxy)-benzyl]-2,2-dimethyl-oxazolidine-3carboxylic acid tert-butyl ester | 106 mg, 51% yield | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC1=CC=C(C=C1)OC1=CC=C(C=C1)OC)(C)C | C24H31NO5
